US07253286B2
1-[4-(6-(Pyridin-2-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yloxy)-phenyl]-3-(thiazol-2-yl)urea
4-(6-(Pyridin-2-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yloxy)phenylamine (100 mg) and (thiazol-2-yl)carbamic acid phenyl ester (116 mg) were heated and stirred in dimethylsulfoxide (2.5 ml) at 80° C. for 1 hour, in the same manner as Example 224, to obtain the title compound (110 mg) as a solid.

reactant | 4-(6-(Pyridin-2-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yloxy)phenylamine | 100 mg | N1=C(C=CC=C1)C1=CC2=C(N=CN=C2OC2=CC=C(C=C2)N)N1 | C17H13N5O
reactant | (thiazol-2-yl)carbamic acid phenyl ester | 116 mg | C1(=CC=CC=C1)OC(NC=1SC=CN1)=O | C10H8N2O2S
solvent | dimethylsulfoxide | 2.5 ml | CS(=O)C | C2H6OS
product | 1-[4-(6-(Pyridin-2-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yloxy)-phenyl]-3-(thiazol-2-yl)urea | 110 mg | N1=C(C=CC=C1)C1=CC2=C(N=CN=C2OC2=CC=C(C=C2)NC(=O)NC=2SC=CN2)N1 | C21H15N7O2S
